US05308853
Z-4-[[2-butyl-5-[(1,3-dibutyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoic acid
1,1-dimethylethyl Z-4-[[2-butyl-5-[(1,3-dibutyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate (0.88 g, 1.64 mmol) was disolved in methylene chloride (16 mL) and trifluoroacetic acid (16 mL). After stirring for 3 hours the reaction mixture was evaporated in vacuo. Dilute NaHCO3 was added to adjust the pH to 6 and extracted with ethyl acetate. This extract was dried over MgSO4 and then evaporated in vacuo and purified via chromatograph (eluant methanol in chloroform).

reactant | 1,1-dimethylethyl Z-4-[[2-butyl-5-[(1,3-dibutyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate | 1.64 mmol, 0.88 g | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CCCC)CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C31H44N4O4
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 16 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Z-4-[[2-butyl-5-[(1,3-dibutyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoic acid | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CCCC)CC1=CC=C(C(=O)O)C=C1 | C27H36N4O4
